Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
Exam under anesthesia, placed stitch at right vaginal cuff angle 
where there was an area of focal bleeding. THERE WAS NO VAGINAL 
LACERATION.

 
History of Present Illness:
___ is a ___ G0 transgender man who presents POD10 from 
TLH BS with vaginal bleeding. He reports bleeding started this
afternoon, around 3pm, and he passed several clots from the
vagina, as well as had active bright red bleeding. Soaked about 
1
pad/hour. He continues to endorse a sensation of bleeding here 
in
triage and has some dizziness. Denies having anything in the
vagina last 10 days, denies recent trauma or accident. Moved the
recycling today which was lifting more than 10lbs.

ROS: Denies SOB, CP, N/V, diarrhea, Constipation, no F/C

 
Past Medical History:
________________________________________________________________
                       PAST MEDICAL HISTORY
1. gender dysphoria
2. anxiety
3. depression
________________________________________________________________
                       PAST SURGICAL HISTORY
1. TLH, BS
2. bilateral mastectomy
3. wisdom teeth removal
________________________________________________________________
                         OBSTETRIC HISTORY
G0
_______________________________________________________________
 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
PHYSICAL EXAM ON DISCHARGE:
Vitals (T current, BP, HR, RR, SpO2):
HR 86 BP 125/91 RR 12 O2 ___ 
GENR: Awake and alert, clean and well ___, NAD
HEENT: Atraumatic, normocephalic
CARD: RRR
RESP: CTAB, no w/r/r or adventitious sounds
___: +BS all 4 quadrants, TTP with areas of dullness, soft,
NT/ND, no rebound or guarding
GU/: external genitalia without lesion or erythema, normal
introitus without evidence of trauma, normal vaginal mucosa.
Active pooling of blood in the vault, ___ sized clot
evacuated along with 15 scopettes of bright red blood. Source of
active bleeding could not be identified despite thorough exam.
PELV: no defect in cuff identified 
EXTR: wwp, calves nontender bilaterally
NEUR: All 4 limbs moving spontaneously.  Patellar reflex 2+ 
bilat
PSYCH: patient stated mood  "anxious ___ , congruent with
affect.

PHYSICAL EXAM ON DISCHARGE:
bp 128 / 83 hr 91 rr 16 o2 SAT 99 RA 

PE:
Gen: NAD, sitting up in bed and reading 
Pulm: LCTAB
CV: RRR
Abd: soft, nondistended, normoactive bowel sounds, no tenderness
to palpation. steristrips in place on port sites from prior
surgery. 
gu: pad with minimal spotting
Ext: BLE nontender, nonedematous 

 
Pertinent Results:
___ 09:59PM BLOOD WBC-7.8 RBC-4.07 Hgb-12.5 Hct-35.0 MCV-86 
MCH-30.7 MCHC-35.7 RDW-11.7 RDWSD-36.8 Plt ___
___ 09:59PM BLOOD Plt ___
 
Brief Hospital Course:
Mr. ___ was admitted to the GYN service after undergoing 
an exam under anesthesia and placement of suture at vaginal cuff 
angle. THERE WAS NO VAGINAL LACERATION.  Please see the 
operative report for full details. His post-operative course was 
uncomplicated.

*)Postoperative course
Immediately post-op, his pain was controlled with IV dilaudid 
and toradol.
On post-operative day 1, his diet was advanced without 
difficulty and he was transitioned to PO oxycodone, ibuprofen, 
and acetaminophen.

By post-operative day 1, he had minimal vaginal drainage,  was 
tolerating a regular diet, voiding spontaneously, ambulating 
independently, and pain was controlled with oral medications. He 
was then discharged home in stable condition with outpatient 
follow-up scheduled.
 
Medications on Admission:
Medications - Prescription
BUPROPION HCL - bupropion HCl 75 mg tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
CLONAZEPAM - clonazepam 1 mg tablet. 1 tablet(s) by mouth up to
twice daily as needed for anxiety -  (Prescribed by Other
Provider; occasionally takes only 0.5 tab)
DULOXETINE - duloxetine 30 mg capsule,delayed release. 2 
capsules
in a.m and 1 capsule in p.m capsule(s) by mouth  -  (Prescribed
by Other Provider)
GABAPENTIN - gabapentin 600 mg tablet. 2 tablet(s) by mouth 
three
times a day -  (Prescribed by Other Provider)
IBUPROFEN - ibuprofen 600 mg tablet. 1 tablet(s) by mouth every 
6
hours as needed for pain Take with food.
LEVONORGESTREL [___] - Dosage uncertain -  (Prescribed by 
Other
Provider)
OXYCODONE - oxycodone 5 mg tablet. ___ tablet(s) by mouth every 
4
hours as needed for pain Do not drink alcohol or drive while
taking.
TESTOSTERONE CYPIONATE - testosterone cypionate 100 mg/mL
intramuscular oil. 0.25  (25mg) mg im wkly -  (Prescribed by
Other Provider)
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. ___ tablet(s) by
mouth every 6 hours as needed for pain Do not exceed 4g in 24h
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Dosage uncertain 
-
(Prescribed by Other Provider)
DOCUSATE SODIUM - docusate sodium 100 mg capsule. 1 capsule(s) 
by
mouth twice daily as needed for constipation
MULTIVITAMIN [DAILY MULTI-VITAMIN] - Daily Multi-Vitamin tablet.
1 tablet(s) by mouth once a day -  (OTC)
OMEGA 3-DHA-EPA-FISH OIL [FISH OIL] - Dosage uncertain - 
(Prescribed by Other Provider; ran out,plans to stay on)

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 4000 mg in a day 
RX *acetaminophen 500 mg ___ tablet(s) by mouth Q6HR Disp #*20 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*15 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take with food. Do not exceed 2400 mg in a day  
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q6HR Disp #*30 Tablet 
Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
Do not drink and drive. ___ cause sedation. Partial fill upon 
request  
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4HR Disp #*10 Tablet 
Refills:*0 
5.  BuPROPion 75 mg PO DAILY  
6.  ClonazePAM 1 mg PO Q12H:PRN anxiety   
7.  DULoxetine 60 mg PO AM  
8.  DULoxetine 30 mg PO ___  
9.  Gabapentin 1200 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vaginal bleeding that required the placement of a suture at the 
right angle of the vaginal cuff that had a focal area of 
bleeding.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the GYN service after undergoing an exam 
under anesthesia and placement of a suture at the right angle of 
the vaginal cuff that had a focal area of bleeding. THERE WAS NO 
VAGINAL LACERATION. You have recovered well and the team feels 
that you are ready for discharge.

Please follow the instructions below:

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

 
Followup Instructions:
___